US06140274
Then, 35.6 g of 4-bromo-2-ethyl-6-methyl-1-benzyloxybenzene was dissolved in 250 ml of tetrahydrofuran, to which 69 ml of a solution of n-butyl lithium in hexane (1.69 mol/l) was added dropwise with stirring at -70° C. After further stirring at -70° C. for 2 hours, a solution of 12.1 g of trimethoxyboran dissolved in 50 ml of tetrahydrofuran was added dropwise to the reaction solution. After completion of the dropwise addition, the reaction mixture was returned to room temperature and stirred for 1 hour, which was poured into ice water, weakly acidified by the addition of 10% hydrochloric acid and extracted twice with 500 ml of diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate and then concentrated. To the residue was added 120 m of toluene, to which 33 ml of 30% aqueous hydrogen peroxide solution was added dropwise with heating at 0° C. under stirring. After heating under reflux for 1 hour, the reaction mixture was returned to room temperature, washed once with water, twice with 10% aqueous ammonium ferrous sulfate solution and further once with water, and the toluene layer was dried over anhydrous magnesium sulfate and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 26.2 g of 4-benzyloxy-3-ethyl-5-methylphenol (yield, 93%).

reactant | 4-bromo-2-ethyl-6-methyl-1-benzyloxybenzene | 35.6 g | BrC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)CC | C16H17BrO
reactant | trimethoxyboran | 12.1 g | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | n-butyl lithium | C(CCC)[Li]
solvent | hexane | 1.69 mol/l | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-3-ethyl-5-methylphenol | 26.2 g, 93% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)O)CC | C16H18O2
